US05188897
a. N6,N6,2',3',5'-O-Pentabenzoyladenosine: (1A)
To a suspension of 5.34 g (20 mmole) adenosine (Sigma, dried at 80° C./10-3Torr for 24 h) in 100 ml dry pyridine, 33.74 g (240 mmole) benzoyl chloride was added dropwise. After 20 h stirring at room temperature ("r.t.") the mixture was treated with 16 ml dry MeOH and then extracted with CHCl3 (3×250 ml). The organic phase was washed with water (3×250 ml), dried over Na2SO4, and evaporated to dryness. Final coevaporation was performed with toluene. The residue was dissolved in CHCl3 /MeOH 2/1 by heating, and after cooling to r.t., petrolether (diethylether) was added until the solution became turbid. After standing for 12 h at 0° C. 12.18 g was obtained, and from the mother liquor, 2.66 g of the product were isolated as colorless needles of m.p. 183°-184° C., yield 14.84 g (94%).

reactant | adenosine | 20 mmole, 5.34 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | benzoyl chloride | 240 mmole, 33.74 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | MeOH | 16 ml | CO | CH4O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | N6,N6,2',3',5'-O-Pentabenzoyladenosine | 2.66 g | C(C1=CC=CC=C1)(=O)N(C=1C=2N=CN([C@H]3[C@](O)([C@](O)([C@@H](COC(C4=CC=CC=C4)=O)O3)C(C3=CC=CC=C3)=O)C(C3=CC=CC=C3)=O)C2N=CN1)C(C1=CC=CC=C1)=O | C45H33N5O9
